US04898953
(R)-(-)-5-[2,5-Bis(acetyloxy)-3,4,6-trimethylphenyl]-3-methyl-1-pentyn-3-ol
By the same procedure described in Example 17, the title compound was prepared form (R)-2-[3-hydroxy-3-methyl-4-pentynyl]-3,5,6-trimethyl-2,5-cyclohexadiene-1,4-dione. mp 100°-103° C. (from ether-hexane): [α]D25 30 14.38° (C2H5OH): [α]D25 31 17.38°

reactant | (R)-2-[3-hydroxy-3-methyl-4-pentynyl]-3,5,6-trimethyl-2,5-cyclohexadiene-1,4-dione | O[C@](CCC=1C(C(=C(C(C1C)=O)C)C)=O)(C#C)C | C15H18O3
solvent | C2H5OH | C(C)O | C2H6O
product | (R)-(-)-5-[2,5-Bis(acetyloxy)-3,4,6-trimethylphenyl]-3-methyl-1-pentyn-3-ol | C(C)(=O)OC1=C(C(=C(C(=C1C)C)OC(C)=O)C)CC[C@](C#C)(O)C | C19H24O5
